US07420091B2
Diisopropyl-(3-phenyl-3-p-tolyloxy-propyl)-amine [(II) X is CH2; R is N(isopropyl)2]
A three-necked round-bottom flask equipped with condenser, magnetic stirrer, thermometer, is loaded under nitrogen stream with p-tolyloxy-benzyl ether (11.2 g; 0.0589 mol), tetramethylenediamine (6.8 g; 0.0589 mol) and tetrahydrofuran (50 ml), then cooled to 15° C. under stirring. A 2.5 M solution of butyl lithium (24 ml 0.0589 mol) in hexane is dropped therein, keeping the temperature below 0° C. After completion of the addition, temperature is kept at 0° C. for a further hour and a solution of chloroethyl diisopropylamine (9.6 g; 0.0589 mol) in tetrahydrofuran (10 ml) is added. The mixture is left to warm to room temperature, then after an hour is poured in an ammonium chloride saturated solution (50 ml), the phases are separated and the aqueous phase is extracted with toluene (3×30 ml). The combined organic phases are dried over sodium sulfate and evaporated to dryness. The resulting diisopropyl-(3-phenyl-3-p-tolyloxy-propyl)-amine is purified by flash chromatography. 9.9 g of product, as a pale yellow oil, are obtained.

reactant | p-tolyloxy-benzyl ether | 0.0589 mol, 11.2 g | C1(=C(C=CC=C1)OC1=CC=C(COCC2=CC=C(C=C2)OC2=C(C=CC=C2)C)C=C1)C | C28H26O3
reactant | tetramethylenediamine | 0.0589 mol, 6.8 g | NCCCCN | C4H12N2
reactant | butyl lithium | 0.0589 mol, 24 ml | C(CCC)[Li]
reactant | chloroethyl diisopropylamine | 0.0589 mol, 9.6 g | ClCCN(C(C)C)C(C)C | C8H18ClN
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Diisopropyl-(3-phenyl-3-p-tolyloxy-propyl)-amine | 9.9 g | C(C)(C)N(CCC(OC1=CC=C(C=C1)C)C1=CC=CC=C1)C(C)C | C22H31NO
